US07319103B2
9-{4-[3-(2-Methyl-pyrrolidin-1-yl)-propoxy]-phenyl}-5,6,7,8-tetrahydro-pyrazolo[5,1-b]quinazoline
Using the method described for the preparation of 10-{4-[3-(2-methyl-pyrrolidin-1-yl)-propoxy]-phenyl}-6,7,8,9-tetrahydro-5H-1,4,10a-triaza-cyclohepta[f]indene, the reaction of 9-[4-(3-chloro-propoxy)-phenyl]-5,6,7,8-tetrahydro-pyrazolo[5,1-b]quinazoline and 2-methyl-pyrrolidine provided the desired compound 9-{4-[3-(2-methyl-pyrrolidin-1-yl)-propoxy]-phenyl}-5,6,7,8-tetrahydro-pyrazolo[5,1-b]quinazoline.

reactant | 10-{4-[3-(2-methyl-pyrrolidin-1-yl)-propoxy]-phenyl}-6,7,8,9-tetrahydro-5H-1,4,10a-triaza-cyclohepta[f]indene | CC1N(CCC1)CCCOC1=CC=C(C=C1)C=1N2N=CC=C2N=C2C1CCCCC2 | C25H32N4O
reactant | 9-[4-(3-chloro-propoxy)-phenyl]-5,6,7,8-tetrahydro-pyrazolo[5,1-b]quinazoline | ClCCCOC1=CC=C(C=C1)C=1N2C(N=C3CCCCC13)=CC=N2 | C19H20ClN3O
reactant | 2-methyl-pyrrolidine | CC1NCCC1 | C5H11N
product | 9-{4-[3-(2-methyl-pyrrolidin-1-yl)-propoxy]-phenyl}-5,6,7,8-tetrahydro-pyrazolo[5,1-b]quinazoline | CC1N(CCC1)CCCOC1=CC=C(C=C1)C=1N2C(N=C3CCCCC13)=CC=N2 | C24H30N4O
